US06838463B2
To 4 ml of dimethylsulfoxide were added 365 mg of 4-chloro-6-(2-butynyloxy)pyrimidine, 442 mg of potassium carbonate, and 495 mg of 2,2,3,3,3-pentafluoropropylamine, followed by stirring at 80° C. for 4 hours. Then, 596 mg of 2,2,3,3,3-pentafluoropropylamine was further added, and the mixture was stirred at 100° C. for 6 hours. The reaction mixture was then left for cooling to room temperature, diluted with ethyl acetate, and washed twice with an aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 73 mg of 4-(2-butynyloxy)-6-(2,2,3,3,3-pentafluoropropylamino)pyrimidine (the present compound (111)).

reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 365 mg | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | potassium carbonate | 442 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,3,3,3-pentafluoropropylamine | 495 mg | FC(CN)(C(F)(F)F)F | C3H4F5N
reactant | 2,2,3,3,3-pentafluoropropylamine | 596 mg | FC(CN)(C(F)(F)F)F | C3H4F5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-butynyloxy)-6-(2,2,3,3,3-pentafluoropropylamino)pyrimidine | 73 mg | C(C#CC)OC1=NC=NC(=C1)NCC(C(F)(F)F)(F)F | C11H10F5N3O
